US04797148
N,N-Dimethyl-N'-(7-chloro-3-methyl-8-quinoloyl)-formamidine
55.1 g (0.25 mole) of 7-chloro-3-methylquinoline-8-carboxamide were dissolved in 50 ml of N,N-dimethylformamide, 39.3 g (0.32 mole) of N,N-dimethylformamide dimethyl acetal were added, and the mixture was refluxed for 4 hours. After precipitation on ether, 44.0 g (64%) of colorless crystals of melting point 183°-185° C. (decomposition) were isolated (compound No. 22).

reactant | 7-chloro-3-methylquinoline-8-carboxamide | 0.25 mole, 55.1 g | ClC1=CC=C2C=C(C=NC2=C1C(=O)N)C | C11H9ClN2O
reactant | N,N-dimethylformamide dimethyl acetal | 0.32 mole, 39.3 g | COC(N(C)C)OC | C5H13NO2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N,N-Dimethyl-N'-(7-chloro-3-methyl-8-quinoloyl)-formamidine | CN(C=NC(=O)C=1C(=CC=C2C=C(C=NC12)C)Cl)C | C14H14ClN3O
